US05639914
16.9 g (0.10 mol) of diphenylamine, 48.7 g (0.12 mol) of 4,4'-diiodobiphenyl, 16.6 g (0.12 mol) of anhydrous potassium carbonate, 1.27 g (0.02 mol) of copper powder, and 20 ml of nitrobenzene were mixed. The reaction mixture was then allowed to undergo reaction at a temperature of 190° C. to 205° C. for 20 hours. The reaction product was then extracted with 200 ml of toluene. The insoluble contents were removed by filtration. The filtrate was then concentrated to dryness. The concentrate was then purified by column chromatography (carrier: silica gel; elute: 1/3 mixture of toluene and n-hexane) to obtain 24.9 g (yield: 55.6%) of N-(4'-iodo-4-biphenylyl)-N,N-diphenylamine. The melting point of the product was from 139.5° C. to 140.5° C.

reactant | diphenylamine | 0.10 mol, 16.9 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | 4,4'-diiodobiphenyl | 0.12 mol, 48.7 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)I | C12H8I2
reactant | potassium carbonate | 0.12 mol, 16.6 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 0.02 mol, 1.27 g | [Cu] | Cu
solvent | nitrobenzene | 20 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | N-(4'-iodo-4-biphenylyl)-N,N-diphenylamine | 24.9 g, yield: 55.6% | IC1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC=C1 | C24H18IN
